US03984293
A solution of 4-hydroxymethyl-5-methylimidazole hydrochloride (30.0 g) and cysteamine hydrochloride (23.0 g) in acetic acid (200 ml) was heated under reflux for 10 hours. Following cooling to 15°-20°, the solid which crystallised was collected and washed with isopropyl alcohol to give 4-methyl-5-[(2-aminoethyl)thiomethyl]imidazole dihydrochloride m.p. 189°-192°. Potassium carbonate (7.75 g) was added to a solution of 4-methyl-5-[(2-aminoethyl)thiomethyl]imidazole dihydrochloride (14.6 g) in water (120 ml). The solution was stored at room temperature for 15 minutes and methyl isothiocyanate (5.15 g) was added. After heating under reflux for 30 minutes, the solution was slowly cooled to 5°. The product was collected and recrystallised from water to give N-methyl-N'-[2-((5-methyl-4-imidazolyl)methylthio)ethyl]thiourea, m.p.150°-152°.

reactant | Potassium carbonate | 7.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methyl-5-[(2-aminoethyl)thiomethyl]imidazole dihydrochloride | 14.6 g | Cl.Cl.CC=1N=CNC1CSCCN
reactant | methyl isothiocyanate | 5.15 g | CN=C=S | C2H3NS
solvent | water | 120 ml | O | H2O
product | N-methyl-N'-[2-((5-methyl-4-imidazolyl)methylthio)ethyl]thiourea | CNC(=S)NCCSCC=1N=CNC1C | C9H16N4S2
